US08022062B2
6-(3,3-Dimethyl-butoxy)-nicotinonitrile:
Add sodium bis(trimethylsilyl)amide (3.95 mL, 7.9 mmol, 2M solution in THF) to a solution of 3,3-dimethyl-butan-1-ol (960 CL, 7.9 mmol) in anhydrous THF (10 mL). Stir for 30 min at room temperature and then add a solution of 6-chloro-nicotinonitrile (1 g, 7.2 mmol) in anhydrous THF (5 mL). Stir at room temperature overnight and then quench the reaction mixture with saturated aqueous NaHCO3 (100 mL). Extract the aqueous layer with dichloromethane (3×100 mL) and wash the organic layer with brine (100 mL). Dry the combined organic extracts over MgSO4 and concentrate in vacuo to give the desired intermediate as a yellow solid (1.4 g, 94%). GC-MS m/z: 204 (Me).

reactant | sodium bis(trimethylsilyl)amide | 7.9 mmol, 2M, 3.95 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 3,3-dimethyl-butan-1-ol | 7.9 mmol | CC(CCO)(C)C | C6H14O
reactant | 6-chloro-nicotinonitrile | 7.2 mmol, 1 g | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-(3,3-Dimethyl-butoxy)-nicotinonitrile | 1.4 g, 94% | CC(CCOC1=NC=C(C#N)C=C1)(C)C | C12H16N2O
